US08859549B2
4-(6-chloropyridin-3-yl)phthalazin-1(2H)-one
A mixture of ethyl 2-(6-chloronicotinoyl)benzoate (0.599 g, 2.1 mmol) and hydrazine hydrate (0.35 mL, 6.2 mmol) in ethanol (6 mL) was stirred at 75° C. for 1 hour, concentrated, and azeotroped with toluene to provide the title compound, which was used without purification: 1H NMR (300 MHz, DMSO-d6) δ 13.01 (s, 1H), 8.65 (dd, J=2.7, 0.6, 1H), 8.44-8.25 (m, 1H), 8.13 (dd, J=8.3, 2.5, 1H), 8.08-7.82 (m, 2H), 7.82-7.59 (m, 2H).

reactant | ethyl 2-(6-chloronicotinoyl)benzoate | 2.1 mmol, 0.599 g | ClC1=NC=C(C(=O)C2=C(C(=O)OCC)C=CC=C2)C=C1 | C15H12ClNO3
reactant | hydrazine hydrate | 6.2 mmol, 0.35 mL | O.NN
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 4-(6-chloropyridin-3-yl)phthalazin-1(2H)-one | ClC1=CC=C(C=N1)C1=NNC(C2=CC=CC=C12)=O | C13H8ClN3O
